US06699880B1
Preparation of 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(methylsulfonyl)-1,3-dihydro-2H-imidazo-[4,5-b]pyridin-2-one
Example 12 was repeated except that the 1-[1-(1-methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one was replaced with 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one which was prepared by the method of Referential Example 7 and that acetyl chloride was replaced with methanesulfonyl chloride. The title compound was obtained as a colorless solid.

reactant | 1-[1-(1-methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C19H26N4O3
reactant | 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C18H25N5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(methylsulfonyl)-1,3-dihydro-2H-imidazo-[4,5-b]pyridin-2-one | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(N(C2=NC=CC=C21)S(=O)(=O)C)=O | C19H27N5O5S
